US09056874B2
a) (±)-2-(2,2,2-Trifluoro-1-methoxy-1-(7-methyl-5-(methylsulfonyl)-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
To (±)-2-(2,2,2-trifluoro-1-methoxy-1-(7-methyl-5-(methylsulfonyl)-1-tosyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile (172 mg, 0.279 mmol) in EtOH (2.8 mL) was added sodium ethoxide (21% in EtOH, 2 mL, 5.58 mmol) and the mixture was stirred at 60° C. After 45 minutes the reaction was cooled to room temperature and purified directly by flash chromatography (0-100% EtOAc in heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.84-13.00 (m, 1H) 11.59 (br. s., 1H) 8.47 (m) 8.00-8.19 (m) 7.94 (m) 7.61-7.72 (m, 1H) 7.50-7.61 (m) 7.27 (br. s., 1H) 5.45 (br. s., 1H) 3.39 (br. s., 3H) 3.21 (br. s., 3H) 2.57 (s, 3H). HRMS calcd. for C21H17F3N4O3S (M+H)+ 463.1052. found 463.1031.

reactant | (±)-2-(2,2,2-trifluoro-1-methoxy-1-(7-methyl-5-(methylsulfonyl)-1-tosyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.279 mmol, 172 mg | FC(C(C1=C2C=CN(C2=C(C=C1S(=O)(=O)C)C)S(=O)(=O)C1=CC=C(C)C=C1)(OC)C1=NC2=C(N1)C=CC(=C2)C#N)(F)F | C28H23F3N4O5S2
reactant | sodium ethoxide | 5.58 mmol, 2 mL | [O-]CC.[Na+]
solvent | EtOH | 2.8 mL | CCO | C2H6O
product | (±)-2-(2,2,2-Trifluoro-1-methoxy-1-(7-methyl-5-(methylsulfonyl)-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | FC(C(C1=C2C=CNC2=C(C=C1S(=O)(=O)C)C)(OC)C1=NC2=C(N1)C=CC(=C2)C#N)(F)F | C21H17F3N4O3S
